US05252601
Dissolve 1,2,3,4-tetrahydro-2-naphthoic acid (10 g, 57 mmol) in methanol (100 mL) and add dimethoxypropane (3 mL). Cool to 5° C. and saturate with hydrogen chloride gas. Allow to stand overnight then evaporate the solvent in vacuo. Take the residue up in ethyl ether, wash with saturated sodium hydrogen carbonate and dry (MgSO4). Evaporate the solvent in vacuo and distill to give 2-carbomethoxy-1,2,3,4-tetrahydronaphthalene; bp 90°-96° C.@0.25 mm Hg).

reactant | 1,2,3,4-tetrahydro-2-naphthoic acid | 57 mmol, 10 g | C1C(CCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | dimethoxypropane | 3 mL | COC(C)(C)OC | C5H12O2
solvent | methanol | 100 mL | CO | CH4O
product | 2-carbomethoxy-1,2,3,4-tetrahydronaphthalene | C(=O)(OC)C1CC2=CC=CC=C2CC1 | C12H14O2
